US06881736B1
(b) (4 R, 5 S)-3,4-Dimethyl-1-[(S)-4-(4-methoxyphenyl)-3-(pyridin-3-yl)butanoyl]-5-phenylimidazolidin-2-one
A solution of 4-methoxyphenylmagnesium bromide in THF (0.33 M, 495 mL, 163.5 mmole) was added dropwise to a stirred suspension of (4 R, 5 S)-3,4-dimethyl-1-[(E)-3-(pyridin-3-yl)prop-2-enoyl]-5-phenylimidazolidin-2-one (17.53 g, 54.5 mmole), CuBr-DMS complex (14.1 g, 65.4 mmole), and ZnI2 (20.9 g, 65.4 mmole) in THF/toluene (270 mL) at −15° C. After 1 hr the reaction was quenched with 9:1 saturated NH4Cl/conc. NH4OH and the mixture was stirred open to the air for 30 min. The mixture was diluted with H2O and extracted with EtOAc (3×). The combined organic layers were dried over MgSO4 and concentrated. The residue was taken up in methyl tert-butyl ether (MTBE, 200 mL) and stored at −20° C. overnight. The solid was collected, washed with MTBE, and dried in vacuo. This material was recrystallized from 3:1 hexanes/EtOAc to provide the title compound (19.408 g. 80%): 1H NMR (400 MHz, CDCl3) δ 8.72 (br s, 2 H), 7.50 (narrow m, 1H), 7.12-7.35 (m, 4 H), 6.97-7.03 (m, 2 H), 6.94 (d, J=8.6 Hz, 2 H), 6.72 (d, J=8.6 Hz, 2H), 5.11 (d, J=8.4 Hz, 1 H), 3.70-3.90(m, 2 H), 3.70 (s, 3 H). 3.43-3.58 (m, 1 H), 3.03-3.18 (m, 1 H), 2.75-2.95 (m, 2 H), 2.71 (s, 3 H), 0.66 (d, J=6.5 Hz, 3 H); MS (ES) m/e 444 (M+H)+.

reactant | 4-methoxyphenylmagnesium bromide | COC1=CC=C(C=C1)[Mg]Br
reactant | THF | 163.5 mmole, 0.33 M, 495 mL | C1CCOC1 | C4H8O
reactant | 3,4-dimethyl-1-[(E)-3-(pyridin-3-yl)prop-2-enoyl]-5-phenylimidazolidin-2-one | 54.5 mmole, 17.53 g | CN1C(N(C(C1C)C1=CC=CC=C1)C(\C=C\C=1C=NC=CC1)=O)=O | C19H19N3O2
solvent | THF toluene | 270 mL | C1CCOC1.C1(=CC=CC=C1)C
catalyst | ZnI2 | 65.4 mmole, 20.9 g | [Zn+2].[I-].[I-]
product | 3,4-Dimethyl-1-[(S)-4-(4-methoxyphenyl)-3-(pyridin-3-yl)butanoyl]-5-phenylimidazolidin-2-one | 19.408 g, 80% | CN1C(N(C(C1C)C1=CC=CC=C1)C(C[C@H](CC1=CC=C(C=C1)OC)C=1C=NC=CC1)=O)=O | C27H29N3O3
